US09289430B2
tert-butyl 3-(3-(4-chloro-2-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl-carbamoyl)phenylcarbamoyl)benzylthio)propanoate
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(3-(chlorocarbonyl)benzylthio)propanoate (185 mg, 0.59 mmol, 1.00 equiv) in dichloromethane (10 mL), and pyridine (140 mg, 1.77 mmol, 3.00 equiv). This was followed by dropwise addition of a solution of 2-amino-5-chloro-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)benzamide (200 mg, 0.59 mmol, 1.00 equiv) in dichloromethane (2 mL) with stirring. The resulting solution was stirred for 1 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/ethyl acetate (10:1) to yield 150 mg (33%) of product as a yellow solid.

reactant | tert-butyl 3-(3-(chlorocarbonyl)benzylthio)propanoate | 0.59 mmol, 185 mg, 1.00 equiv | ClC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1 | C15H19ClO3S
reactant | pyridine | 1.77 mmol, 140 mg, 3.00 equiv | N1=CC=CC=C1 | C5H5N
reactant | 2-amino-5-chloro-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)benzamide | 0.59 mmol, 200 mg, 1.00 equiv | NC1=C(C(=O)NC2=NN(C=C2)C2=CC(=C(C=C2)C)C)C=C(C=C1)Cl | C18H17ClN4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | tert-butyl 3-(3-(4-chloro-2-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl-carbamoyl)phenylcarbamoyl)benzylthio)propanoate | 150 mg, 33% | ClC1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1)C(NC1=NN(C=C1)C1=CC(=C(C=C1)C)C)=O | C33H35ClN4O4S
